US07728025B2
(Step 6) Production of t-butyl 2-(4,5-diamino-2-((2′-fluorobiphenyl-4-yl)oxy)phenyl)pyrrolidine 1-carboxylate
1 ml of developed Raney nickel was added to a methanol (5 ml) solution of 410 mg of t-butyl 2-(4-amino-2-((2′-fluorobiphenyl-4-yl)oxy)-5-nitrophenyl)pyrrolidine-1-carboxylate, and the reaction liquid was stirred in a hydrogen atmosphere at room temperature for 1 day. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1) to obtain the entitled compound as a brown oily substance.

reactant | t-butyl 2-(4-amino-2-((2′-fluorobiphenyl-4-yl)oxy)-5-nitrophenyl)pyrrolidine-1-carboxylate | 410 mg | NC1=CC(=C(C=C1[N+](=O)[O-])C1N(CCC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)C1=C(C=CC=C1)F | C27H28FN3O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1 ml | [Ni] | Ni
solvent | methanol | 5 ml | CO | CH4O
product | t-butyl 2-(4,5-diamino-2-((2′-fluorobiphenyl-4-yl)oxy)phenyl)pyrrolidine 1-carboxylate | NC1=CC(=C(C=C1N)C1N(CCC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)C1=C(C=CC=C1)F | C27H30FN3O3
